US08217064B2
2-(5-chloro-6-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4,4,4-trifluorobutanoic acid
To a stirred solution of ethyl 2-(5-chloro-6-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4,4,4-trifluorobutanoate (0.1 g, 0.404 mmol) in a mixture of THF (10 mL), methanol (10 mL) and water (5 mL) was added LiOH.H2O (85 mg, 2.024 mmol) at room temperature and the mixture was stirred at RT for 2 h. After complete consumption of the starting material as monitored by TLC, the reaction mixture was diluted with water (10 mL) and acidified using 1 N HCl at 0° C. The aqueous layer was extracted with EtOAc (2×20 mL) the combined organic extracts were washed with water (10 mL), brine (20 mL), dried over anhydrous Na2SO4 and evaporated under vacuum. The crude material was purified by column chromatography to 2-(5-chloro-6-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4,4,4-trifluorobutanoic acid (38 mg) as sticky syrup. 1HNMR (500 MHz) (CDCl3): δ (ppm) 7.71 (m, 4H), 7.39 (s, 1H), 7.19 (s, 1H), 3.92 (m, 1H), 3.41 (d, 2H), 3.08 (m, 1H), 2.54 (m, 1H), 0.96 (m, 1H), 0.40 (d, 2H), 0.00 (m, 2H).

reactant | ethyl 2-(5-chloro-6-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4,4,4-trifluorobutanoate | 0.404 mmol, 0.1 g | ClC=1C=C(C=C(C1OCC1CC1)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)OCC)CC(F)(F)F | C23H21ClF6O3
reactant | methanol | 10 mL | CO | CH4O
reactant | water | 5 mL | O | H2O
reactant | LiOH.H2O | 2.024 mmol, 85 mg | O[Li].O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(5-chloro-6-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4,4,4-trifluorobutanoic acid | ClC=1C=C(C=C(C1OCC1CC1)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)CC(F)(F)F | C21H17ClF6O3
